US04079146
Trimethylammonium Manganese-Zinc Ethylene-bis-dithiocarbamic acid-Dimethyldithiocarbamic acid
A 100 ml. aqueous solution of 8.44g. (0.05 mole) of manganese sulfate monohydrate is added dropwise to a 3-necked flask. After 5-10 ml. of the solution had been added, a combined 100 ml. solution of 6.5g. of sodium ethylene-bis-dithiocarbamate (0.025 mole), 8.95g. of sodium dimethyldithiocarbamate (0.05 mole) and 9.5g. (0.1 mole) of trimethylamine hydrochloride is added simultaneously to the flask at the same rate as that of the manganese solution. After the addition (ca 15 min.) the suspension is stirred for 0.5 hour then vacuum filtered. The precipitate is added to a beaker containing 100 ml. of water and a solution of ZnCl2 (0.005 mole) is added with efficient stirring. The suspension is refiltered and the precipitate is air-dried for six hours then vacuum dried until it reaches a constant weight. A total of 14.4g. of product, mp>~250° C. (dec.) is obtained.

reactant | manganese sulfate monohydrate | 0.05 mole | O.S(=O)(=O)([O-])[O-].[Mn+2]
reactant | sodium ethylene-bis-dithiocarbamate | 0.025 mole | C(CNC([S-])=S)NC([S-])=S.[Na+].[Na+]
reactant | sodium dimethyldithiocarbamate | 0.05 mole | CN(C([S-])=S)C.[Na+]
reactant | trimethylamine hydrochloride | 0.1 mole | Cl.CN(C)C
reactant | manganese | [Mn] | Mn
reactant | ZnCl2 | 0.005 mole | [Cl-].[Cl-].[Zn+2]
solvent | water | O | H2O
product | Trimethylammonium Manganese-Zinc Ethylene-bis-dithiocarbamic acid Dimethyldithiocarbamic acid | C(CNC(S)=S)NC(S)=S.[Zn+2].[Mn+2].C[NH+](C)C.CN(C(S)=S)C | InChI=1S/C4H8N2S4.C3H7NS2.C3H9N.Mn.Zn/c7-3(8)5-1-2-6-4(9)10;1-4(2)3(5)6;1-4(2)3;;/h1-2H2,(H2,5,7,8)(H2,6,9,10);1-2H3,(H,5,6);1-3H3;;/q;;;2*+2/p+1
